US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (80.0 mg) and 3-fluoroaniline (63.0 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-(3-fluorophenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (38.1 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 80.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 3-fluoroaniline | 63.0 mg | FC=1C=C(N)C=CC1 | C6H6FN
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(3-fluorophenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 38.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC(=CC=C2)F)=O)C#N | C22H26F2N4O2
